US08044206B2
To a solution of 125 mg of 1-benzyl-4-[(E)-2-(2,6-dimethylphenyl)vinyl]-3-methylpiperidine in 3 ml of 1,2-dichloroethane, 139 mg of 1-chloroethyl chloroformate was added at ambient temperature. The mixture was heated under reflux for 1 hour. After cooling, 10 ml of methanol was added to the reaction mixture and the resulting mixture was heated under reflux for further 30 minutes. After cooling, the solvent was evaporated under reduced pressure. The residue was dissolved in 5 ml of ethyl acetate and the solution was filtered. To the filtrate was added 1 ml of 4N hydrochloric acid-ethyl acetate and the solvent was evaporated under reduced pressure. The residue was triturated in ethyl acetate. After filtration, the obtained solid was recrystallized from ethyl acetate-methanol to give 47 mg of 4-[(E)-2-(2,6-dimethylphenyl)vinyl]-3-methylpiperidine hydrochloride.

reactant | 1-benzyl-4-[(E)-2-(2,6-dimethylphenyl)vinyl]-3-methylpiperidine | 125 mg | C(C1=CC=CC=C1)N1CC(C(CC1)\C=C\C1=C(C=CC=C1C)C)C | C23H29N
reactant | 1-chloroethyl chloroformate | 139 mg | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methanol | 10 ml | CO | CH4O
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | 4-[(E)-2-(2,6-dimethylphenyl)vinyl]-3-methylpiperidine hydrochloride | 47 mg | Cl.CC1=C(C(=CC=C1)C)/C=C/C1C(CNCC1)C | InChI=1S/C16H23N.ClH/c1-12-5-4-6-13(2)16(12)8-7-15-9-10-17-11-14(15)3;/h4-8,14-15,17H,9-11H2,1-3H3;1H/b8-7+;
